US07399759B2
N-Cyclopropyl-4-oxo-2-(2-pyridyl)-4H-1,3-benzothiazine-7-carboxamide
N,N′-carbonyldiimidazole (520 mg, 3.2 mmol) was added to a mixture of 4-oxo-2-(2-pyridyl)-4H-1,3-benzothiazine-7-carboxylic acid (700 mg, 2.4 mmol) and tetrahydrofuran (20 ml), and the mixture was stirred at 60° C. for 2 hrs. Successively, cyclopropylamine (700 mg, 12.2 mmol) was added to the reaction mixture, and the mixture was stirred at 60° C. for 1 hr. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with ethyl acetate were collected, concentrated and recrystallized from diisopropyl ether-methanol to give the titled compound (45 mg, 5%) as pale yellow crystals.

reactant | 4-oxo-2-(2-pyridyl)-4H-1,3-benzothiazine-7-carboxylic acid | 2.4 mmol, 700 mg | O=C1N=C(SC2=C1C=CC(=C2)C(=O)O)C2=NC=CC=C2 | C14H8N2O3S
reactant | cyclopropylamine | 12.2 mmol, 700 mg | C1(CC1)N | C3H7N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-Cyclopropyl-4-oxo-2-(2-pyridyl)-4H-1,3-benzothiazine-7-carboxamide | 45 mg, 5% | C1(CC1)NC(=O)C1=CC2=C(C(N=C(S2)C2=NC=CC=C2)=O)C=C1 | C17H13N3O2S
